US04892946
2-Methoxycarbonyl-5-isocyanato-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide
To 27 g of 2-methoxycarbonyl-5-isocyanatobenzenesulfonylisocyanate in 250 ml of anhydrous acetonitrile is added in small portions at ambient temperatures, 14 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine, the mixture is then stirred at ambient temperature for 16 hours. The resultant product, a white precipitate is removed by filtration and dried in vacuo.

reactant | 2-methoxycarbonyl-5-isocyanatobenzenesulfonylisocyanate | 27 g | COC(=O)C1=C(C=C(C=C1)N=C=O)S(=O)(=O)N=C=O | C10H6N2O6S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 14 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-Methoxycarbonyl-5-isocyanato-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide | COC(=O)C1=C(C=C(C=C1)N=C=O)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C15H14N6O7S
